US05318966
8.58 g (0.035 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-9-methoxy-3-propyl-1H-benzo[e]indole were boiled under reflux for 4 hours in 0.5 l of 48 percent aqueous HBr. The mixture was poured into an ice-cold aqueous solution of 200 g (5 mol) of NaOH. Solid NaHCO3 was added thereto and the mixture was extracted three times with CH2Cl2. The combined organic phases were washed with saturated aqueous NaHCO3 and NaCl solutions, dried with Na2SO4, filtered and concentrated. The residue was chromatographed over silica gel with ethyl acetate. The product was crystallized in hexane. There were obtained 6.4 g (80%) of rac-cis-2,3,3a,4,5,9b-hexahydro-3-propyl-1H-benzo[e]indol-9-ol as white crystals with m.p. 130°-132°.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-9-methoxy-3-propyl-1H-benzo[e]indole | 0.035 mol, 8.58 g | COC1=CC=CC2=C1[C@H]1CCN([C@H]1CC2)CCC | C16H23NO
reactant | NaOH | 5 mol, 200 g | [OH-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HBr | 0.5 l | Br | BrH
product | rac-cis-2,3,3a,4,5,9b-hexahydro-3-propyl-1H-benzo[e]indol-9-ol | 6.4 g, 80% | C(CC)N1CC[C@@H]2C3=C(CC[C@H]12)C=CC=C3O | C15H21NO
